US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (75 mg, 110 μmol) in 4 M HCl in dioxane (548 μl) was stirred for 1 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (57.0 mg, 84% yield) as a white solid. MS m/z 584 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 110 μmol, 75 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(=O)C2CCOCC2)C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC2=C(C=CC3=CC=CC=C23)OC)C=C1 | C38H45N5O7
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 548 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 57.0 mg, 84% yield | Cl.C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(=O)C2CCOCC2)C)NC([C@H](C)NC)=O)=O)CC2=C(C=CC3=CC=CC=C23)OC)C=C1 | InChI=1S/C33H37N5O5.ClH/c1-20(35-3)31(39)36-30-21(2)38(32(40)24-13-15-43-16-14-24)28-17-22(18-34)9-11-27(28)37(33(30)41)19-26-25-8-6-5-7-23(25)10-12-29(26)42-4;/h5-12,17,20-21,24,30,35H,13-16,19H2,1-4H3,(H,36,39);1H/t20-,21-,30-;/m0./s1
